US06291457B1
3-Ethoxycarbonylmethyl-azetidine-1-carboxylic Acid Benzyl Ester
To a stirring mixture of azetidin-3-yl-acetic acid ethyl ester (1.0 g, 6.98 mmol), in saturated aqueous sodium bicarbonate (5 mL) and THF (5 mL) at 0° C. was added carbobenzyloxy chloride (1.1 mL, 7.68 mmol) dropwise. The ice bath was removed and the reaction mixture was stirred at room temperature for 2 hrs, then extracted with ethyl acetate acetate (3×20 mL). The combined ethyl acetate layer was washed with water (10 mL), brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was chromatographed on silica gel, eluting with 20% ethyl acetate in hexane to give 0.30 g of the title compound.

reactant | azetidin-3-yl-acetic acid ethyl ester | 6.98 mmol, 1.0 g | C(C)OC(CC1CNC1)=O | C7H13NO2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | carbobenzyloxy chloride | 7.68 mmol, 1.1 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
product | 3-Ethoxycarbonylmethyl-azetidine-1-carboxylic Acid Benzyl Ester | 0.30 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)CC(=O)OCC | C15H19NO4
